US09403801B2
Step 1) tert-butyl 4-((2-chloropyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate
To a solution of 2,4-dichloropyrimidine (600 mg, 4.03 mmol) and tert-butyl 4-amino-2-azaspiro[4.4]nonane-2-carboxylate (1.07 g, 4.43 mmol) in EtOH (20 mL) was added Et3N (815.6 mg, 8.06 mmol). After addition, the reaction mixture was stirred at rt overnight and then concentrated in vacuo. The residue was purified by silica gel column chromatography (PE/EtOAc (v/v)=10/1 to 1/1) to give the product as a white solid (528 mg, 37.2%).

reactant | 2,4-dichloropyrimidine | 4.03 mmol, 600 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | tert-butyl 4-amino-2-azaspiro[4.4]nonane-2-carboxylate | 4.43 mmol, 1.07 g | NC1CN(CC12CCCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | Et3N | 8.06 mmol, 815.6 mg | CCN(CC)CC | C6H15N
solvent | EtOH | 20 mL | CCO | C2H6O
product | tert-butyl 4-((2-chloropyrimidin-4-yl)amino)-2-azaspiro[4.4]nonane-2-carboxylate | 528 mg, 37.2% | ClC1=NC=CC(=N1)NC1CN(CC12CCCC2)C(=O)OC(C)(C)C | C17H25ClN4O2
